US04481365
18.1 g (0.05 mol) of 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro-benzoic acid are dissolved in 100 ml of dimethylsulphoxide. 9.8 g of diazabicycloundecane are added at 20° C., while cooling. The mixture is stirred for a further half hour. 7.4 g (0.06 mol) of chloromethyl-trimethylsilane are then added dropwise at 20° C., and the mixture is heated at 100° C. for 20 hours. The reaction mixture is thereafter concentrated, and the residue is taken up in toluene. The organic phase is washed successively with dilute hydrochloric acid, aqueous sodium hydroxide solution and water, and is then dried and evaporated down. The residue is dissolved in ligroin, the solution is stirred under active charcoal, the latter is filtered off under suction over kieselguhr, and the filtrate is then concentrated. 20 g (89% of theory) of trimethyl-silyl-methyl 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoate are obtained as a viscous oil.

reactant | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitro-benzoic acid | 0.05 mol, 18.1 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | diazabicycloundecane | 9.8 g | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
reactant | chloromethyl-trimethylsilane | 0.06 mol, 7.4 g | ClC[Si](C)(C)C | C4H11ClSi
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | trimethyl-silyl-methyl 5-(2-chloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoate | 20 g, 89% | ClC1=C(OC=2C=CC(=C(C(=O)OC[Si](C)(C)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H17ClF3NO5Si
